US06660753B2
To the solution of 4-Tributylstannyl-1-trityl-1H-imidazole (106 mg, 0.18 mmol) in tetrahydrofuran (5 ml) added 3-(5-Fluoro-2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole (50.0 mg, 0.15 mmol) and tetrakis(triphenylphoshine)palladium (0) (17.1 mg, 0.01 mmol), sequentially. The resulting brownish yellow reaction mixture was heated at 100° C. under argon overnight. The reaction mixture was cooled to room temperature and concentrated in-vacuo. The residue was purified on silica gel using 30% ethyl acetate in hexanes to isolate 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1-trityl-1H-imidazol-4-yl)phenyl)-1,2,4-oxadiazole (20.0 mg).

reactant | 4-Tributylstannyl-1-trityl-1H-imidazole | 0.18 mmol, 106 mg | C(CCC)[Sn](C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CCCC)CCCC
reactant | 3-(5-Fluoro-2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole | 0.15 mmol, 50.0 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)Br | C13H6BrF2N3O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(5-Fluoro-2-pyridyl)-5-(3-fluoro-5-(1-trityl-1H-imidazol-4-yl)phenyl)-1,2,4-oxadiazole | 20.0 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C35H23F2N5O
